US05578620
3-(3-Chlorophenoxy)-2-hydroxypropylamine
0.19 g of lithium aluminum hydride was gradually added, whilst ice-cooling and under a stream of nitrogen gas, to a solution of 0.39 g of 3-(3-chlorophenoxy)-2-hydroxypropylazide (prepared as described in Preparation 12) in 5 ml of anhydrous tetrahydrofuran. The mixture was then stirred for a further 1.5 hours under the same conditions, after which excess lithium aluminum hydride was decomposed by adding water. Insolubles were then removed by filtration from the reaction mixture, using a Celite (trade name) filter aid, and the filtrate was dried over anhydrous sodium sulfate. The solvent was then removed from the reaction mixture by evaporation under reduced pressure, to give 0.15 g of the title compound as white crystals, melting at 55° C. to 58° C.

reactant | lithium aluminum hydride | 0.19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(3-chlorophenoxy)-2-hydroxypropylazide | 0.39 g | ClC=1C=C(OCC(CN=[N+]=[N-])O)C=CC1 | C9H10ClN3O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(3-Chlorophenoxy)-2-hydroxypropylamine | 0.15 g | ClC=1C=C(OCC(CN)O)C=CC1 | C9H12ClNO2
